US06451814B1
4-[4-(4-{2-[(2R)-2-Hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-benzoic Acid
Methyl 4-{[4-(4-{2-[((2R)-2-hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)amino]-phenyl}ethyl)amino]ethyl}anilino)-1-piperidinyl]carbonyl}benzoate (0.127 g, 0.208 mmol) was dissolved in methanol (12 mL) and 1N sodium hydroxide (0.416 mL) added. The reaction was stirred at reflux for 24 hours. A further portion of 1N sodium hydroxide (0.1 mL) was added and the reaction stirred at reflux for a further 24 hours. The solvent was removed in vacuo. The residue was extracted with ethyl acetate and the solvent removed in vacuo. The residue was extracted with methanol, filtered through Celite and the solvent removed in vacuo to furnish the title compound (0.032 g, 0.054 mmol).

reactant | Methyl 4-{[4-(4-{2-[((2R)-2-hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)amino]-phenyl}ethyl)amino]ethyl}anilino)-1-piperidinyl]carbonyl}benzoate | 0.208 mmol, 0.127 g | O[C@@H](CNCCC1=CC=C(NC2CCN(CC2)C(=O)C2=CC=C(C(=O)OC)C=C2)C=C1)C1=CC(=C(C=C1)O)NS(=O)(=O)C | C31H38N4O7S
reactant | sodium hydroxide | 1N, 0.416 mL | [OH-].[Na+]
reactant | sodium hydroxide | 1N, 0.1 mL | [OH-].[Na+]
solvent | methanol | 12 mL | CO | CH4O
product | 4-[4-(4-{2-[(2R)-2-Hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-benzoic Acid | 0.054 mmol, 0.032 g | O[C@@H](CNCCC1=CC=C(C=C1)NC1CCN(CC1)C(=O)C1=CC=C(C(=O)O)C=C1)C1=CC(=C(C=C1)O)NS(=O)(=O)C | C30H36N4O7S
